US04863920
660 mg (2 mmol) of 7-chloro-4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-one was heated to boiling under reflux overnight with 80 mg of sodium hydroxide in 10 ml of toluene. After evaporation of the solvent the residue was dissolved in methylene chloride and the solution was washed twice with water, dried over magnesium sulphate and evaporated. After recrystallization of the residue from ethyl acetate there was obtained 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 200°-201°.

reactant | 7-chloro-4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-one | 2 mmol, 660 mg | ClC1=CC=CC2=C1CN(CC=1N2C(NC1C#CC(C)(C)O)=O)C | C17H18ClN3O2
reactant | sodium hydroxide | 80 mg | [OH-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C)C)=O | C14H10ClN3O
